US08426417B2
Step (g). 5-(2-amino-pyrimidin-4-yl)-1H-pyrrole-3-carboxylic acid ethyl ester
To a suspension of 5-(2-Amino-pyrimidin-4-yl)-2-chloro-1H-pyrrole-3-carboxylic acid ethyl ester hydrochloride (33 g, 0.108 mol) in dry methanol (500 mL), ammonium formate (33 g, 0.523 mol) and 10% Pd/C (3.5 g, 0.0028 mol) were added. The reaction was refluxed for 10 hours. The catalyst was filtered through a pad of Celite rinsing the Celite with dichloromethane (100 mL) and then with methanol (100 mL). The organic fraction was concentrated to small volume (50 mL) diluted with dichloromethane (150 mL) and washed with water (1×200 mL) and the acqueous fraction extracted with dichloromethane (1×200 mL). The organic fractions were combined, dried over sodium sulfate, filtered, and concentered to yield 12.5 g (50%) of the title compound as an light brown solid.

reactant | 5-(2-Amino-pyrimidin-4-yl)-2-chloro-1H-pyrrole-3-carboxylic acid ethyl ester hydrochloride | 0.108 mol, 33 g | Cl.C(C)OC(=O)C1=C(NC(=C1)C1=NC(=NC=C1)N)Cl
reactant | ammonium formate | 0.523 mol, 33 g | C(=O)[O-].[NH4+]
solvent | methanol | 500 mL | CO | CH4O
catalyst | Pd/C | 0.0028 mol, 3.5 g | [Pd] | Pd
product | 5-(2-amino-pyrimidin-4-yl)-1H-pyrrole-3-carboxylic acid ethyl ester | 12.5 g, 50% | C(C)OC(=O)C1=CNC(=C1)C1=NC(=NC=C1)N | C11H12N4O2
